### PR TITLE
feat: add `LawfulBEq` instance for `Vector`

### PR DESCRIPTION
**Pull request by Mehbark**
The `eq_of_beq` proof is a bit hairy, and I couldn't find a proof that didn't use `Vector.ext`, so I moved the instance to be with the other `Vector` lemmas. All review is greatly appreciated.

### CODE REVIEW

**Comment by Mehbark** [comment]
awaiting-review

File: Batteries/Data/Vector/Lemmas.lean [hunk 1]
```diff
@@ -291,3 +291,13 @@ instance instDecidableExistsVectorZero (P : Vector α 0 → Prop) [Decidable (P
 instance instDecidableExistsVectorSucc (P : Vector α (n+1) → Prop)
     [Decidable (∀ (x : α) (v : Vector α n), ¬ P (v.push x))] : Decidable (∃ v, P v) :=
   decidable_of_iff (¬ ∀ v, ¬ P v) Classical.not_forall_not
+
+instance LawfulBEq (α n) [BEq α] [LawfulBEq α] : LawfulBEq (Vector α n) where
+  rfl := by simp [(· == ·), isEqv, Array.isEqvAux_self]
+  eq_of_beq {a b} := by
+    simp only [(· == ·), isEqv]
+    intro heqv
+    have h := @Array.rel_of_isEqvAux _ (· == ·) _ _ _ n _ heqv
```
Comment (kim-em) [inline Batteries/Data/Vector/Lemmas.lean:300]: I've just marked rel_of_isEqvAux private in Lean, so this proof will break shortly. Can you see if you can work with the remaining public lemmas?

Comment (Mehbark) [reply Batteries/Data/Vector/Lemmas.lean:300]: Should be doable; I'll work on it. There's a good chance it'll improve the proof. Thanks for letting me know!

**Comment by Mehbark** [comment]
awaiting-review

File: Batteries/Data/Vector/Lemmas.lean [hunk 2]
```diff
@@ -291,3 +291,16 @@ instance instDecidableExistsVectorZero (P : Vector α 0 → Prop) [Decidable (P
 instance instDecidableExistsVectorSucc (P : Vector α (n+1) → Prop)
     [Decidable (∀ (x : α) (v : Vector α n), ¬ P (v.push x))] : Decidable (∃ v, P v) :=
   decidable_of_iff (¬ ∀ v, ¬ P v) Classical.not_forall_not
+
+instance LawfulBEq (α n) [BEq α] [LawfulBEq α] : LawfulBEq (Vector α n) where
+  rfl {a} := by
+    simp [(· == ·)]
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:297]: Nonterminal simp. Please use `simp only`.

File: Batteries/Data/Vector/Lemmas.lean [hunk 3]
```diff
@@ -291,3 +291,16 @@ instance instDecidableExistsVectorZero (P : Vector α 0 → Prop) [Decidable (P
...
+    rw [mk_isEqv_mk, Array.isEqv_self_beq]
+  eq_of_beq {a b} := by
+    simp only [(· == ·)]
+    rw [mk_isEqv_mk]
+    intro heqv
+    apply Vector.ext
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:303]: Does `ext` work here? Perhaps `ext : 1`?

**Comment by Mehbark** [comment]
If `simp_all` is undesirable, I can remove it.

File: Batteries/Data/Vector/Lemmas.lean [hunk 4]
```diff
@@ -291,3 +291,15 @@ instance instDecidableExistsVectorZero (P : Vector α 0 → Prop) [Decidable (P
...
+instance (α n) [BEq α] [LawfulBEq α] : LawfulBEq (Vector α n) where
+  rfl {a} := by
+    simp only [(· == ·)]
+    rw [mk_isEqv_mk, Array.isEqv_self_beq]
+  eq_of_beq {a b} := by
+    simp only [(· == ·)]
+    rw [mk_isEqv_mk]
+    intro heqv
+    ext
+    have ⟨_, h⟩ := Array.rel_of_isEqv heqv
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:304]:
```suggestion
    have ⟨_, _⟩ := Array.rel_of_isEqv heqv
```

**Review by fgdorais — COMMENTED** [review]
Minor

File: Batteries/Data/Vector/Lemmas.lean (hunk 4 above)
Comment (Mehbark) [reply Batteries/Data/Vector/Lemmas.lean]: `have := …` seems to work. Is it better to remove the pattern altogether?

**Comment by fgdorais** [comment]
We need to wait until Mathlib builds but otherwise all good. The Mathlib issue appears to be elsewhere, so no need to worry.

File: Batteries/Data/Vector/Lemmas.lean (hunk 4 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Lemmas.lean]: OK.

File: Batteries/Data/Vector/Lemmas.lean [hunk 5]
```diff
@@ -291,3 +291,15 @@ instance instDecidableExistsVectorZero (P : Vector α 0 → Prop) [Decidable (P
...
+instance (α n) [BEq α] [LawfulBEq α] : LawfulBEq (Vector α n) where
+  rfl {a} := by
+    simp only [(· == ·)]
+    rw [mk_isEqv_mk, Array.isEqv_self_beq]
+  eq_of_beq {a b} := by
+    simp only [(· == ·)]
+    rw [mk_isEqv_mk]
+    intro heqv
+    ext
+    have := Array.rel_of_isEqv heqv
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:304]: I just noticed that `Array.rel_of_isEqv` is remarkably inconvenient to use. It should be a pair of lemmas:
```
theorem size_eq_size_of_isEqv {v₁ v₂ : Array α} : v₁.isEqv v₂ r → v₁.size = v₂.size := sorry

theorem getElem_rel_getElem_of_isEqv {v₁ v₂ : Array α} {h₁ : i < v₁.size} {h₂ : i < v₂.size} : v₁.isEqv v₂ r → r v₁[i] v₂[i] := sorry
```
What do you think @kim-em ?

**Comment by fgdorais** [comment]
If you want to avoid `Vector.ext` consider adding the missing lemma:
```
theorem Vector.toArray_isEqv_toArray_of_isEqv {v₁ v₂ : Vector α n} : v₁.isEqv v₂ r = v₁.toArray.isEqv v₂.toArray r :=
  match v₁, v₂ with | ⟨_,_⟩, ⟨_,_⟩ => mk_isEqv_mk ..
```

**Comment by Mehbark** [comment]
awaiting-author

**Comment by Mehbark** [comment]
I'm much more happy with the size of the proof now; thank you!

**Comment by Mehbark** [comment]
awaiting-review

**Review by fgdorais — APPROVED** [review]

**Comment by fgdorais** [comment]
Thank you!
